US07276624B2
CH2═C(CF3)CF2OSO2F (10 g, 0.041 mole) is added at 20° C. to (CF3)2CFOK, prepared from freshly dried potassium fluoride (KF) (2.4 g, 0.041 mole), hexafluoroacetone (HFA) (9.3 g, 0.056 mole) and dry diglyme (10 ml). The reaction mixture is agitated for 2 hours and then poured into water, the organic layer separating. The organic layer is washed with dilute hydrochloric acid, then sodium bicarbonate solution, then water, after which it is dried over magnesium sulfate (MgSO4). Distillation of the reaction mixture gives CH2═C(CF3)CF2OCF(CF3)2 (10.2 g, 75% yield, b.pt. 87–88° C.).

reactant | CH2═C(CF3)CF2OSO2F | 0.041 mole, 10 g | C=C(C(F)(F)F)C(F)(F)OS(=O)(=O)F | C4H2F6O3S
reactant | (CF3)2CFOK | C(F)(C(F)(F)F)(C(F)(F)F)O[K]
reactant | potassium fluoride | 0.041 mole, 2.4 g | [F-].[K+]
reactant | hexafluoroacetone | 0.056 mole, 9.3 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
solvent | water | O | H2O
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
product | CH2═C(CF3)CF2OCF(CF3)2 | 10.2 g, 75% yield | C=C(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)F | C7H2F12O
